US05565560
17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-allyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (820 mg in 9 ml 33% methylene chloride in cyclohexane) allyl trichloroacetimidate (366 μl neat) was added and the reagents allowed to mix for 5 minutes. Trifluoromethanesulfonic acid (16 μl neat) was added slowly via syringe and the mixture stirred at room temperature. After 17 hours the reaction was quenched by the addition of saturated sodium bicarbonate and extracted with ethyl acetate (3×15 ml). The combined organics were washed with brine and dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel (ether:hexane (2:3)) gave the title compound (800 mg). (1H NMR was consistent with the desired structure).

reactant | 17-ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 9 ml, 820 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C49H83NO12Si
reactant | allyl trichloroacetimidate | 366 μl | ClC(C(OCC=C)=N)(Cl)Cl | C5H6Cl3NO
reactant | Trifluoromethanesulfonic acid | 16 μl | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-allyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 800 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC=C)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C52H87NO12Si
